US08937167B2
N-methyl-3-[3-methyl-4-[(2R,3S,4S,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydropyran-2-yl]oxy-phenyl]benzamide (5b).
Under nitrogen atmosphere, the mixture of [(2R,3S,4S,5R,6R)-4,5-diacetoxy-6-(acetoxymethyl)-2-(4-bromo-2-methyl-phenoxy)tetrahydropyran-3-yl]acetate (0.517 g, 1 mmol), 3-(N-methylaminocarbonyl)phenylboronic acid pinacol ester (0.392 g, 1.5 mmol), cesium carbonate (0.977 g, 3 mmol) and tetrakis(triphenylphosphine)palladium (0.116 g, 0.1 mmol) in dioxane/water (15 mL/3 mL) was heated at 80° C. with stirring for 1 h under a nitrogen atmosphere. After cooling to RT, the mixture was filtered through silica gel column to remove the metal catalyst and salts with hexane/ethyl acetate combinations as eluent. The filtrate was concentrated, and then dried in vacuo. The residue was diluted with 15 mL of methanol containing a catalytic amount of sodium methoxide (0.02 M) and the mixture was stirred at RT overnight. H+ exchange resin (DOWEX 50WX4-100) was added to neutralize the mixture. The resin was filtered off and the filtrate was concentrated. The resulting residue was purified by silica gel chromatography with CH2Cl2/MeOH combinations as eluent, giving the title compound (0.260 g) in 64% yield for two steps. 1H NMR (300 MHz, METHANOL-d4) δ ppm 7.94 (t, J=1.65 Hz, 1H), 7.57-7.72 (m, 2H), 7.33-7.50 (m, 3H), 7.23 (d, J=8.52 Hz, 1H), 5.48 (d, J=1.92 Hz, 1H), 4.00 (dd, J=1.79, 3.43 Hz, 1H), 3.83-3.94 (m, 1H), 3.60-3.76 (m, 3H), 3.46-3.58 (m, 1H), 2.87 (s, 3H), 2.24 (s, 3H). MS (ESI): found: [M+H]+, 404.2.

reactant | [(2R,3S,4S,5R,6R)-4,5-diacetoxy-6-(acetoxymethyl)-2-(4-bromo-2-methyl-phenoxy)tetrahydropyran-3-yl]acetate | 1 mmol, 0.517 g | C(C)(=O)O[C@H]1[C@@H]([C@H](O[C@@H]([C@@H]1OC(C)=O)COC(C)=O)OC1=C(C=C(C=C1)Br)C)CC(=O)[O-]
reactant | 3-(N-methylaminocarbonyl)phenylboronic acid pinacol ester | 1.5 mmol, 0.392 g | CNC(=O)C=1C=C(C=CC1)B1OC(C)(C)C(C)(C)O1 | C14H20BNO3
reactant | cesium carbonate | 3 mmol, 0.977 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane water | 15 mL | O1CCOCC1.O
catalyst | tetrakis(triphenylphosphine)palladium | 0.1 mmol, 0.116 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-methyl-3-[3-methyl-4-[(2R,3S,4S,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydropyran-2-yl]oxy-phenyl]benzamide | 0.260 g, 64% yield | CNC(C1=CC(=CC=C1)C1=CC(=C(C=C1)O[C@H]1O[C@@H]([C@H]([C@@H]([C@@H]1O)O)O)CO)C)=O | C21H25NO7
